US04550103
To a suspension of 8.2 g (0.2 mole) of lithium aluminum hydride in 150 ml of dry tetrahydrofuran was added portionwise, 18.3 g (70.0 mmole) of solid 5-oxo-1-(phenylmethyl)-N-(2-propyl)-3-pyrrolidinecarboxamide. When the addition was complete, the reaction mixture was stirred at room temperature for 18 hours and then refluxed for two hours. After cooling to room temperature, the mixture was treated dropwise, successively, with 8 ml of water, 8 ml of 15% aqueous sodium hydroxide and 24 ml of water, titrating the final addition to produce a granular precipitate. The solid was removed by filtration, washed with tetrahydrofuran and the filtrate evaporated in vacuo to give 15.6 g of 1-(phenylmethyl)-N-(2-propyl)-3-pyrrolidinemethanamine as a heavy syrup.

reactant | lithium aluminum hydride | 0.2 mole, 8.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-oxo-1-(phenylmethyl)-N-(2-propyl)-3-pyrrolidinecarboxamide | O=C1CC(CN1CC1=CC=CC=C1)C(=O)NC(C)C | C15H20N2O2
reactant | water | 8 ml | O | H2O
reactant | sodium hydroxide | 8 ml | [OH-].[Na+]
reactant | water | 24 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(phenylmethyl)-N-(2-propyl)-3-pyrrolidinemethanamine | 15.6 g | C1(=CC=CC=C1)CN1CC(CC1)CNC(C)C | C15H24N2
